US07723352B2
11-(3-fluorophenyl)-1-hydroxy-9-methoxy-1,2,3,4-tetrahydro-6H-pyrido[1,2-b]isoquinolin-6-one
To a solution of 11-(3-fluorophenyl)-9-methoxy-3,4-dihydro-2H-pyrido[1,2-b]isoquinoline-1,6-dione in 5 mL 1:1 MeOH:CH2Cl2 was added NaBH4 (17 mg). The reaction was stirred at room temp for 1 h, then diluted with bicarb and EtOAc and stirred for 30 min. The mixture was extracted once with EtOAc, and the organic solution was washed once with brine, dried (Na2SO4) and concentrated. Flash chromatography (40 g silica, 50-100% EtOAc/hexanes) gave the titled compound.

reactant | 11-(3-fluorophenyl)-9-methoxy-3,4-dihydro-2H-pyrido[1,2-b]isoquinoline-1,6-dione | FC=1C=C(C=CC1)C1=C2N(C(C=3C=CC(=CC13)OC)=O)CCCC2=O | C20H16FNO3
reactant | MeOH | CO | CH4O
reactant | CH2Cl2 | C(Cl)Cl | CH2Cl2
reactant | NaBH4 | 17 mg | [BH4-].[Na+]
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 11-(3-fluorophenyl)-1-hydroxy-9-methoxy-1,2,3,4-tetrahydro-6H-pyrido[1,2-b]isoquinolin-6-one | FC=1C=C(C=CC1)C1=C2N(C(C=3C=CC(=CC13)OC)=O)CCCC2O | C20H18FNO3
